US08097634B2
Step B): 4-(2-Methoxy-ethyl)-2-oxo-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester
4-(2-Methoxy-ethyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (13 g) in AcOEt (300 ml) was added at RT under an argon atmosphere to a vigorously stirred solution of RuCl3×H2O (1.71 g) and NaIO4 (44.078 g) in water (300 ml). This mixture was vigorously stirred 30 minutes at RT. Then water and AcOEt were added and the layers were separated. The organic layer was washed with water and brine, dried over magnesium sulphate and concentrated to give the crude product as brown oil (8.78 g) which was used in next reaction step without further purification. MS (ESI): 352.17 (M+Na)+ and 230.13 [(M-C5H8O2)H+]

reactant | 4-(2-Methoxy-ethyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 13 g | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CCOC | C16H29NO5
reactant | AcOEt | 300 ml | CCOC(=O)C | C4H8O2
solvent | water | 300 ml | O | H2O
solvent | H2O | 1.71 g | O | H2O
product | 4-(2-Methoxy-ethyl)-2-oxo-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 8.78 g | C(C)OC(=O)C1(CC(N(CC1)C(=O)OC(C)(C)C)=O)CCOC | C16H27NO6
